US03978035
D. Benzyloxycarbonyl-L-asparaginyl-Nε-tert.butyloxycarbonyl-L-lysine
51 g Nε-tert.butyloxycarbonyl-L-lysine were converted in a conventional manner into the benzyltriethylammonium salt and then stirred in 700 ml dimethylformamide with 81 g benzyloxycarbonyl-L-asparagine-4-nitrophenyl ester with the addition of 1 equivalent of pyridine for 48 hours at 20°. The residue left after vacuum evaporation was treated with ethyl acetate and potassium hydrogen sulfate solutions simultaneously; the thick precipitate formed was filtered off and then recrystallised from ethanol/petroleum ether. F = 174° - 175° (Z);[α]D20 = + 13.8° (c = 1.0; in pyridine). Yield = 70 g (71 % of the theoretical amount).

reactant | Nε-tert.butyloxycarbonyl-L-lysine | 51 g | C(C)(C)(C)OC(=O)NCCCC[C@H](N)C(=O)O | C11H22N2O4
reactant | benzyltriethylammonium | C(C1=CC=CC=C1)[N+](CC)(CC)CC
reactant | benzyloxycarbonyl-L-asparagine-4-nitrophenyl ester | 81 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O | C18H17N3O7
reactant | pyridine | 1 equivalent | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonyl-L-asparaginyl-Nε-tert.butyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C23H34N4O8
